US07462427B2
Step 1: Preparation of 4-Bromo-4′-(3,7-dimethyloctyloxy)biphenyl
4-Bromo-4′-hydroxybiphenyl (2.50 g, 0.010 mol) and 3,7-dimethylactan-1-ol (1.58 g, 0.010 mol) were mixed in dry tetrahydrofuran (THF) (50 ml) and left stirring at room temperature for 10 min; then a solution of triphenylphosphine (2.60 g, 0.010 mol) and diethylazodicarboxylate (DEAD) (1.75 g, 0.010 mol) in dry cold THF (50 ml) was added dropwise at room temperature over 10 min. The reaction mixture was left stirring overnight. The reaction product was extracted in ether (2×100 ml), and the combined ethereal solutions were washed with water and dried (MgSO4). The crude product was adsorbed onto silica gel and purified by column chromatography [ethyl acetate-petroleum fraction (bp 40-60° C.), 1:5] to give a white powder.

reactant | 4-Bromo-4′-hydroxybiphenyl | 0.010 mol, 2.50 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9BrO
reactant | triphenylphosphine | 0.010 mol, 2.60 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.010 mol, 1.75 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | THF | 50 ml | O1CCCC1 | C4H8O
product | 4-Bromo-4′-(3,7-dimethyloctyloxy)biphenyl | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OCCC(CCCC(C)C)C | C22H29BrO
